US07943619B2
6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid cyclopropylamide
As described for example 81, 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester (89 mg, 0.25 mmol) was converted, using cyclopropylamine instead of aminomethylcyclopropane, to the title compound (61 mg, 66%) which was obtained as a white foam. MS: m/e=368.1 [M+H]+.

reactant | 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester | 0.25 mmol, 89 mg | C(C)OC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F | C18H17FN4O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid cyclopropylamide | 61 mg, 66% | C1(CC1)NC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F | C19H18FN5O2
